US07781436B2
2-{6-Chloro-3-[4-(2-ethoxy-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-N-(2-dimethylamino-ethyl)-acetamide
Analogous to general procedure I, the coupling of {6-chloro-3-[4-(2-ethoxy-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-acetic acid (prepared herein) with (commercially available) N1,N1-dimethyl-ethane-1,2-diamine gave the title compound.

reactant | {6-chloro-3-[4-(2-ethoxy-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-acetic acid | ClC1=CC=C2C(=CN(C2=C1)CC(=O)O)C(=O)N1CCN(CC1)C1=C(C=CC=C1)OCC | C23H24ClN3O4
reactant | N1,N1-dimethyl-ethane-1,2-diamine | CN(CCN)C | C4H12N2
product | 2-{6-Chloro-3-[4-(2-ethoxy-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-N-(2-dimethylamino-ethyl)-acetamide | ClC1=CC=C2C(=CN(C2=C1)CC(=O)NCCN(C)C)C(=O)N1CCN(CC1)C1=C(C=CC=C1)OCC | C27H34ClN5O3
